US04891375
A. 4-(4-(2-Chloroethyl)phenyl)-thiazol-2-one
To a 125 ml round-bottomed flask equipped with N2 inlet were added 9.1 g (50 mmol) of 4-(2-chloroethyl)acetophenone and 25 ml acetic acid. To the stirred solution was added 2.58 ml (50 mmol) of bromine dropwise over 2 minutes. The reaction was stirred at room temperature for 30 minutes, taken up in ethyl acetate, washed with water, saturated aqueous sodium bicarbonate solution, and brine, dried over sodium sulfate, and evaporated to an oil. The oil was taken up in 250 ml of acetone, treated with 4.9 g (50 mmol) of potassium thiocyanate, and stirred at room temperature for 3 hours. The precipitate was filtered and the filtrate evaporated. The residue was taken up in ethyl acetate, washed with water and brine, dried over sodium sulfate, and evaporated to a solid. The solid was taken up in 100 ml of boiling ethanol and treated slowly with 83 ml of 1N HCl, then refluxed for 14 hours. The reaction was cooled and the precipitate filtered, washed with water, and dried to give 8.2 g (68%) of a white solid, m.p. 226°-229° C.

reactant | 4-(2-chloroethyl)acetophenone | 50 mmol, 9.1 g | CC(=O)C1=CC=C(C=C1)CCCl | C10H11ClO
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
reactant | bromine | 50 mmol, 2.58 ml | BrBr | Br2
reactant | potassium thiocyanate | 50 mmol, 4.9 g | [S-]C#N.[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-(2-Chloroethyl)phenyl)-thiazol-2-one | 8.2 g, 68% | ClCCC1=CC=C(C=C1)C=1NC(SC1)=O | C11H10ClNOS
